US08470859B2
5-chloro-2-imino-1-(3-methoxybenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide (0.5 g) in ethanol (5 ml) was added a solution (3 ml) of 3-methoxybenzylamine (410 μl) and triethylamine (450 μl) in ethanol at 0° C., and the mixture was stirred at room temperature for 24 hr. The reaction solvent was evaporated under reduced pressure, and the residue was purified by preparative HPLC. 4N Hydrochloric acid-ethyl acetate solution (1 ml) was added to the obtained yellow oil at room temperature, and the precipitated crystals were filtered and recrystallized to give the title compound (110 mg).

reactant | 2-cyano-2-(3,4-dichloro-5-oxo-2,5-dihydrofuran-2-yl)acetamide | 0.5 g | C(#N)C(C(=O)N)C1OC(C(=C1Cl)Cl)=O | C7H4Cl2N2O3
reactant | 3-methoxybenzylamine | 3 ml | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | triethylamine | 450 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-chloro-2-imino-1-(3-methoxybenzyl)-1,2-dihydropyridine-3-carboxamide hydrochloride | 110 mg | Cl.ClC=1C=C(C(N(C1)CC1=CC(=CC=C1)OC)=N)C(=O)N | InChI=1S/C14H14ClN3O2.ClH/c1-20-11-4-2-3-9(5-11)7-18-8-10(15)6-12(13(18)16)14(17)19;/h2-6,8,16H,7H2,1H3,(H2,17,19);1H
